US09382228B2
A mixture of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (863 mg, 4.15 mmol), 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine (892 mg, 3.19 mmol), K2CO3 (1.322 mg, 9.57 mmol) and Pd(PPh3)4 (184 mg, 0.159 mmol) in dioxane (6 mL) and water (1.5 mL) was sparged with Ar, heated at 80° C. for 24 h, then cooled to RT and stirred for 24 h. The mixture was treated with EtOAc, washed with satd. NaHCO3 (1×), then brine (1×), dried over Na2SO4 and concentrated to dryness to afford 2-ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine (100% yield assumed) as a thick oil. Material carried on to the next step without purification. MS (ESI) m/z: 326.1 (M+H+).

reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.15 mmol, 863 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | 3-((2-chloropyridin-4-yl)oxy)-2-ethyl-6-nitropyridine | 3.19 mmol, 892 mg | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1)[N+](=O)[O-])CC | C12H10ClN3O3
reactant | K2CO3 | 9.57 mmol, 1.322 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.159 mmol, 184 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-ethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine | 100% yield | C(C)C1=NC(=CC=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)[N+](=O)[O-] | C16H15N5O3
